US06462228B1
A three necked 500 ml reaction flask, equipped with a reflux condenser, a stirrer, a thermometer and a heating mantle was charged with 30.2 g of C4F9SO2F (0.1 moles), 15.1 g Na2SO3 (0.12 moles), 16.8 g NaHCO3 (0.2 moles), 50 g EtOH and 50 g DI-water. The reaction mixture was degassed 3 times using nitrogen and aspirator vacuum. The mixture was then heated to 60° C. under a nitrogen atmosphere for 16 hours. A slightly yellow reaction mixture with a pH of 6.5 was obtained. EtOH was stripped off under reduced pressure using an aspirator vacuum (20 torr and temperature between 60-85° C.) and the temperature was kept below 110° C. in order to avoid thermal decomposition of the sulfinate product. 19F analysis indicated a yield of 65% sodium perfluorobutyl sulfinate and 25% sodium perfluorobutyl sulfonate.

reactant | C4F9SO2F | 0.1 moles, 30.2 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)F | C4F10O2S
reactant | Na2SO3 | 0.12 moles, 15.1 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | 0.2 moles, 16.8 g | C(=O)(O)[O-].[Na+]
reactant | sodium perfluorobutyl sulfonate | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[Na+]
solvent | EtOH | CCO | C2H6O
solvent | EtOH | 50 g | CCO | C2H6O
product | sodium perfluorobutyl sulfinate | yield of 65% | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)[O-])F.[Na+] | InChI=1S/C4HF9O2S.Na/c5-1(6,3(9,10)11)2(7,8)4(12,13)16(14)15;/h(H,14,15);/q;+1/p-1
